US07982071B2
Addition of acetonitrile to 3-(2-hydroxy-2-phenylethoxy)benzaldehyde gave 3-hydroxy-3-(3-(2-hydroxy-2-phenylethoxy)phenyl)propanenitrile as a yellow oil. Yield (0.97 g, crude): MS: 284 [M+1]+.

reactant | 3-(2-hydroxy-2-phenylethoxy)benzaldehyde | OC(COC=1C=C(C=O)C=CC1)C1=CC=CC=C1 | C15H14O3
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-hydroxy-3-(3-(2-hydroxy-2-phenylethoxy)phenyl)propanenitrile | OC(CC#N)C1=CC(=CC=C1)OCC(C1=CC=CC=C1)O | C17H17NO3
